US04246268
A solution of 16 g (37 mmoles) of 2-naphthyl 4-piperidyl ketone hydrochloride 13 g (71 mmoles) of 4-chloro-1-phenylbutanone, 0.1 g of potassium iodide and 30 g potassium bicarbonate in 100 ml of toluene is heated for 48 hours with stirring on a steam bath. The mixture is partitioned between 100 ml portions of toluene and water and the organic phase dried over MgSO4. A solution of an excess HCl in ether is added and the resulting precipitate recrystallized from methanol/butanone to yield 4-(2-naphthoyl-1-piperidyl)-1-phenyl-1-butanone hydrochloride. M.P. 197°-9°.

reactant | 2-naphthyl 4-piperidyl ketone hydrochloride | 37 mmoles, 16 g | Cl.N1CCC(CC1)C(=O)C1=CC2=CC=CC=C2C=C1
reactant | 4-chloro-1-phenylbutanone | ClCCC(CC1=CC=CC=C1)=O | C10H11ClO
reactant | potassium iodide | 0.1 g | [I-].[K+]
reactant | potassium bicarbonate | 30 g | C([O-])(O)=O.[K+]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-naphthoyl-1-piperidyl)-1-phenyl-1-butanone hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C(=O)C1N(CCCC1)CCCC(=O)C1=CC=CC=C1 | InChI=1S/C26H27NO2.ClH/c28-25(21-10-2-1-3-11-21)14-8-18-27-17-7-6-13-24(27)26(29)23-16-15-20-9-4-5-12-22(20)19-23;/h1-5,9-12,15-16,19,24H,6-8,13-14,17-18H2;1H
